Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.65447906284
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2],5.20442923796
[H:1][O:2][C:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]=[C:4]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.61425191462
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.01625055453
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.36165472771
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:8]#[C:9][H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],5.66192018304
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],3.62883807712
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:1][C:2]=[O:3],0.80448266955
[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-6.09260183505
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.37340490038
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:5]([H:6])[O:7][H:8].[H:1][C:2]#[C:3][H:4],1.6238664347799998
[C:3]([H:4])([H:5])=[C:6]([H:7])[H:8].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],-2.6833763051700004
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.25050056553
[H:5].[O:1]=[C:2]=[C:3][C:4][O:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.16106000227
[H:1][C:2]#[C:3][O:6][C:7]#[C:8][H:9].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9],-3.56341393881
[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-4.805792219630002
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7],3.6220206668
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:10][H:11].[H:9],2.11763722968
[O:1][C:2]([H:3])([H:4])[C@:5]1([H:6])[C:7]([H:8])=[C:9]([H:10])[C:11]1([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])/[C:7]([H:8])=[C:9](\[H:10])[C:11](=[C:5]([H:6])[H:13])[H:12],-0.36645030783
[O:1]=[C:2][C:9]([C:8]#[C:3][C:4]([H:5])([H:6])[H:7])([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])[C:8][C:9]1([H:10])[H:11],0.25143935096000003
[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[C:7]1([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9],-1.22758549557
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],5.33864386943
[H:1][C:2][O:3][C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8],3.7096629784
[H:1][C:2]([H:3])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.4445825588800005
[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.90815044775
[C:1]#[C:2][H:3].[C:4]([H:5])([H:6])=[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.02479719912
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],7.752625182589999
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],0.37440039556
